US08293715B2
Synthesis of 3-(cyclohexyloxy)phenol
By using 3-hydroxyphenyl benzoate (100 mg) and cyclohexanol (54.3 μl) as starting materials, the title compound (29 mg) was obtained in the same manner as that of Reference Example 15.

reactant | 3-hydroxyphenyl benzoate | 100 mg | C(C1=CC=CC=C1)(=O)OC1=CC(=CC=C1)O | C13H10O3
reactant | cyclohexanol | 54.3 μl | C1(CCCCC1)O | C6H12O
product | 3-(cyclohexyloxy)phenol | 29 mg | C1(CCCCC1)OC=1C=C(C=CC1)O | C12H16O2
